US07067517B2
Methyl-phenyl-carbamic acid 5-nitro-pyridin-2-yl ester
A solution of 2-hydroxy-5-nitropyridine (1.40 g, 10.0 mmol), 1-methyl-3-(methyl-phenyl-carbamoyl)-3H-imidazol-1-ium iodide (3.43 g, 10.0 mmol) and triethylamine (0.42 ml, 10.0 mmol) in acetonitrile (25 ml) was heated at 50° C. for 5 h. The solvent was evaporated in vacuo and the residue was purified by flash column chromatography (SiO2, ethyl acetate:heptane (25:75)) followed by crystallisation from ethyl acetate:heptane yielding the title compound (1.13 g, 41% yield) as a white solid.

reactant | 2-hydroxy-5-nitropyridine | 10.0 mmol, 1.40 g | OC1=NC=C(C=C1)[N+](=O)[O-] | C5H4N2O3
reactant | 1-methyl-3-(methyl-phenyl-carbamoyl)-3H-imidazol-1-ium iodide | 10.0 mmol, 3.43 g | [I-].C[N+]1=CN(C=C1)C(N(C1=CC=CC=C1)C)=O
reactant | triethylamine | 10.0 mmol, 0.42 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | Methyl-phenyl-carbamic acid 5-nitro-pyridin-2-yl ester | 1.13 g, 41% yield | [N+](=O)([O-])C=1C=CC(=NC1)OC(N(C1=CC=CC=C1)C)=O | C13H11N3O4
